2173-02-25 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2173-2-24**] 05:38 PM
   [**2173-2-24**] Events:
   - Held dilantin for elevated level, check in AM and restart 360mg of
   dilantin QHS if wnl
   - getting ruled out for TB, [**1-30**] sputum cultures done
   - ID approval for vanc for possible HAP vs. VAP vs. aspiration.
   - Pt received lasix 40mg IV x 2 with good UOP
   - Code Purple because trying to leave, received 2mg of haldol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-2-24**] 08:15 PM
   Piperacillin - [**2173-2-25**] 12:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-2-24**] 08:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-25**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 103 (78 - 103) bpm
   BP: 125/75(86) {103/36(53) - 136/89(94)} mmHg
   RR: 31 (15 - 31) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.8 kg (admission): 108 kg
   Height: 70 Inch
             Total In:
                                                                    300 mL
                                                                    400 mL
   PO:
                                                                    100 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    200 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    770 mL
                                                                    480 mL
   Urine:
                                                                    770 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -470 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///31/
   Physical Examination
   General: Alert, oriented, able to speak in short sentences, but
   tachypnic
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP at jaw, no LAD
   Lungs: diffuze inspiratory and expiratory wheezes throughout, some
   scarce crackles at bases
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis, +trace
   edema
   Labs / Radiology
   267 K/uL
   12.9 g/dL
   127 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.1 mEq/L
   7 mg/dL
   105 mEq/L
   143 mEq/L
   34.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2173-2-22**]  09:29 AM
                             [**2173-2-22**]  05:24 PM
                             [**2173-2-22**]  05:42 PM
                             [**2173-2-23**]  12:01 AM
                             [**2173-2-23**]  01:39 AM
                             [**2173-2-23**]  03:00 AM
                             [**2173-2-23**]  03:07 AM
                             [**2173-2-23**]  06:20 AM
                             [**2173-2-24**]  01:57 PM
                             [**2173-2-25**]  02:22 AM
   WBC
   7.2
   6.4
   Hct
   28.5
   28.8
   32.2
   34.5
   Plt
   205
   267
   Cr
   0.9
   0.9
   TropT
   0.24
   0.14
   TCO2
   24
   25
   27
   28
   30
   Glucose
   128
   127
   Other labs: PT / PTT / INR:12.9/25.4/1.1, CK / CKMB /
   Troponin-T:135/3/0.14, ALT / AST:18/32, Alk Phos / T Bili:101/0.3,
   Lactic Acid:0.6 mmol/L, Albumin:3.5 g/dL, LDH:198 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   This is a 66 y/o M hx seizures from EEE encephalitis p/w status c/b
   aspiration PNA, intubated in NICU, and NSTEMI and extubated on [**2-21**].
   Transferred to floor on [**2-24**] and continues to have some mild
   respiratory distress, tachypneia. At this point, he has improved and
   appears more comfortable after diuresis.
   .
   # Resp distress: Suspect CHF given low EF after MI and possible
   component of residual PNA. Based on RN reports and clinical hx, I am
   less concerned for new pulm infection as no fever, white count. He had
   improved markedly with diuresis and nebs. He does not appear to have
   underlying pulm disease (non-smoking). other differntial includes other
   infection (he is being ruled out for TB but very questionable exposure
   hx - dgtr reported that her boyfriend had TB), PE (he has no pleuritic
   pain, not tachy; however, had not been on DVT ppx for past 4 days)
   - continue diuresis with goal 2L today
   - continue nebs
   - check BNP
   - no need for steroids at this point, as I suspect his wheezes are
   cardiogenic
   - if continued hypoxia, consider CTA to eval for PE, although less
   clinical suspicion
   - continue to treat aspiration PNA and complete 10 day course
   Vanc/Zosyn
   - consider trial non-invasive ventilation if contiues to tire
   - would strongly consider taking off TB precuations as highly unlikely
   for this to be the cause of his resp distress
   .
   # Seizures:
   - appreciate neuro recs
   - moniton on tele
   - check PHT levels daily
   - continue current doses of dilantin, keppra, & klonopin
   - sz precautions and ativan PRN for sz > 3 min
   .
   # NSTEMI/CHF: Had NSTEMI in setting of status on [**2-19**] and s/p 4 days of
   hep gtt stopped on [**2-20**]. Trops still elevated but trending downward. ?
   of troponin leak as demand ischemia. [**2-20**] TTE shows global hypokinesis
   (EF=20-25%); however, there has been some debate regarding low EF due
   to ischemia vs stress
   - continue ASA 325
   - continue metoprolol
   - if BPs stable, woud start low dose ACEI to decrease afterload
   - consider repeat Echo given ? if stress induced cardiomyopthy vs.
   post-MI
   - monitor on tele
   .
   # HTN:
   - cont metoprolol and consider start ACEI as above
   .
   # Dyslipidemia:
   - continue statin
   .
   # FEN/GI:
   - appreciate S&S eval recs
   - stop IVF and diuresis as above
   - recheck lytes this afternoon given aggressive diuresis
   .
   # PPX:
   - protonix
   - needs SQ heparin
   - fall, aspiration, DTs and seizure precautions
   - IVF as above, thiamine and folate
   .
   # ACCESS:
   - left subclavian
   .
   # FULL CODE:
   -contact is [**Name (NI) 121**] [**Name (NI) 4231**] (daughter) [**Telephone/Fax (1) 4326**]
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 .H/O ENCEPHALITIS
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, ASPIRATION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2173-2-24**] 05:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: